US07407972B2
Step 1. 6′-Amino-[1,3′]bipyridinyl-2-one
2-Amino-5-iodopyridine (5.0 g, 22.7 mmol) was combined with 1H-pyridin-2-one (2.59 g, 27.27 mmol), CuI (0.65 g, 3.41 mmol), K2CO3 (3.45 g, 24.9 mmol), and 8-hydroxyquinoline (0.49 g, 3.40 mmol) in DMSO (20 mL). The mixture was degassed with a stream of argon and then heated at reflux for 18 h before cooling to RT. 10% aq. NH4OH and EtOAc were added, and the mixture was filtered through a plug of layered celite and decolorizing charcoal, eluting with EtOAc. The filtrate was concentrated under reduced pressure. Purification of the crude product by mplc revealed A (0.40 g, 10%) as a yellow solid. MS: APCI (AP+): 188.1 (M)+.

reactant | 2-Amino-5-iodopyridine | 22.7 mmol, 5.0 g | NC1=NC=C(C=C1)I | C5H5IN2
reactant | 1H-pyridin-2-one | 27.27 mmol, 2.59 g | N1C(C=CC=C1)=O | C5H5NO
reactant | K2CO3 | 24.9 mmol, 3.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 8-hydroxyquinoline | 3.40 mmol, 0.49 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
catalyst | CuI | 3.41 mmol, 0.65 g | [Cu]I
product | 6′-Amino-[1,3′]bipyridinyl-2-one | NC1=CC=C(C=N1)N1C(C=CC=C1)=O | C10H9N3O
